US05817693
b) (1RS,3RS)-3-(2-Hydroxy-4-methoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane
To a solution of (1RS,3RS)-3-[(2-methoxymethoxy)-4-methoxyphenyl)]-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane (0.075 g, 0.16 mmol) in methanol (5 ml) was added 4-5 drops of 6M-HCl and the mixture refluxed for 1.5 h under argon. The solvent was removed in vacuo and the product partitioned between EtOAc and water. The organic extract was washed with water then sat. aq. NaHCO3 solution and finally brine. After drying (MgSO4 anhydrous) filtration and evaporation gave the title compound (0.064 g, 94%).

reactant | 1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane | 0.16 mmol, 0.075 g | C1OC=2C=C(C=CC2O1)C1CCC2=CC(=CC=C12)OCCC | C19H20O3
reactant | HCl | Cl | ClH
reactant | methanol | 5 ml | CO | CH4O
product | (1RS,3RS)-3-(2-Hydroxy-4-methoxyphenyl)-1-(3,4-methylenedioxyphenyl)-5-(prop-1-yloxy)indane | 0.064 g, 94% | OC1=C(C=CC(=C1)OC)C1CC(C2=CC=C(C=C12)OCCC)C1=CC2=C(C=C1)OCO2 | C26H26O5
